US09290440B2
4-((E)-2-Cyclohexylvinyl)benzyl alcohol
4-Iodobenzyl alcohol (2.34 g) was dissolved in DMF (40 mL), added with vinylcyclohexane (1.32 g), triethylamine (1.81 mL), and bis(triphenylphosphine)palladium (II) chloride (700 mg), and stirred for 23 hours at 80° C. After cooling to room temperature, the solvent was evaporated under reduced pressure, and the residues were purified by silica gel column chromatography (8 to 30% ethyl acetate/hexane) to obtain the title compound (672 mg) as a yellow solid.

reactant | 4-Iodobenzyl alcohol | 2.34 g | IC1=CC=C(CO)C=C1 | C7H7IO
reactant | vinylcyclohexane | 1.32 g | C(=C)C1CCCCC1 | C8H14
reactant | triethylamine | 1.81 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium (II) chloride | 700 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-((E)-2-Cyclohexylvinyl)benzyl alcohol | 672 mg | C1(CCCCC1)/C=C/C1=CC=C(CO)C=C1 | C15H20O
